US06184422B2
Preparation of (1R,3R)-5-[(2E,9E)-12,12,12-Trifluoro-11-trifluoromethyl-11-hydroxy-7,7-dimethyl-dodeca-2,9-dienylidene]-cyclohexane-1,3-diol
1.40 g of tetrabutylammoniumfluoride trihydrate (4.45 mmol) in 6 ml of tetrahydrofuran was carefully dried by stirring during 2 h at room temperature over 1.78 g of 3 Å molecular sieve. This solution was then added to the above prepared 270 mg of (1R,3R)-1,3-bis-(tert-butyl-dimethyl-silanyloxy)-5-((2E,9E)-12,12,12-trifluoro-7,7-dimethyl-11-trifluoromethyl-11-trimethylsilanyloxy-dodeca-2,9-dienylidene)-cyclohexane (0.371 mmol) and kept for 1.5 h at 40°. The reaction mixture was then poured onto crushed ice/NH4Cl, extracted twice with ether, washed with water, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/ethylacetate=25/75) yielded 165 mg of the title compound as colourless oil. Typically, this product is contaminated with small amounts of 2Z-isomer which can be removed by HPLC.

reactant | tetrabutylammoniumfluoride trihydrate | 4.45 mmol, 1.40 g | CCCC[N+](CCCC)(CCCC)CCCC.O.O.O.[F-]
reactant | (1R,3R)-1,3-bis-(tert-butyl-dimethyl-silanyloxy)-5-((2E,9E)-12,12,12-trifluoro-7,7-dimethyl-11-trifluoromethyl-11-trimethylsilanyloxy-dodeca-2,9-dienylidene)-cyclohexane | 0.371 mmol, 270 mg | C(C)(C)(C)[Si](O[C@H]1C[C@@H](CC(C1)=C\C=C\CCCC(C\C=C\C(C(F)(F)F)(O[Si](C)(C)C)C(F)(F)F)(C)C)O[Si](C)(C)C(C)(C)C)(C)C | C36H66F6O3Si3
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | (1R,3R)-5-[(2E,9E)-12,12,12-Trifluoro-11-trifluoromethyl-11-hydroxy-7,7-dimethyl-dodeca-2,9-dienylidene]-cyclohexane-1,3-diol | 165 mg | FC(C(/C=C/CC(CCC/C=C/C=C1C[C@H](C[C@@H](C1)O)O)(C)C)(O)C(F)(F)F)(F)F | C21H30F6O3
